US04367238
Palladium on carbon (500 mg) was added to a solution of 3-[2-methoxy-3-(2-chlorophenoxy)phenyl]acrylic acid (5.0 g) in dioxan (80 ml), and hydrogen gas (400 ml) was introduced into the mixture. After filtration, the filtrate was evaporated to give oily 3-[2-methoxy-3-(2-chlorophenoxy)phenyl]propionic acid (5.0 g).

reactant | 3-[2-methoxy-3-(2-chlorophenoxy)phenyl]acrylic acid | 5.0 g | COC1=C(C=CC=C1OC1=C(C=CC=C1)Cl)C=CC(=O)O | C16H13ClO4
reactant | hydrogen | 400 ml | [H][H] | H2
catalyst | Palladium on carbon | 500 mg | [Pd] | Pd
solvent | dioxan | 80 ml | O1CCOCC1 | C4H8O2
product | 3-[2-methoxy-3-(2-chlorophenoxy)phenyl]propionic acid | 5.0 g | COC1=C(C=CC=C1OC1=C(C=CC=C1)Cl)CCC(=O)O | C16H15ClO4
